US06982274B2
3-(3-Fluorophenyl)-1H-5-indazolecarboxylic acid
To 10.0 g of 3-(3-fluorophenyl)-1H-5-indazolecarbonitrile were sequentially added 50 ml of glacial acetic acid, 15 ml of water and 12 ml of concentrated sulfuric acid, and the mixture was stirred at 110° C. for 6.5 hours. After standing to cool, the reaction mixture was added with 150 ml of ice-water, and the resulting crystals were collected by filtration. The resulting crystals were dried in vacuo, to give 10.7 g of the title compound as beige orange-pink crystals.

reactant | 3-(3-fluorophenyl)-1H-5-indazolecarbonitrile | 10.0 g | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C#N | C14H8FN3
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 15 ml | O | H2O
product | 3-(3-Fluorophenyl)-1H-5-indazolecarboxylic acid | 10.7 g | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)O | C14H9FN2O2
